US03954794
A mixture of 19.6 g of the pyrrolidine-enamine of p-menthone, 10 ml of methylvinyl ketone and 150 ml of anhydrous benzene is refluxed under nitrogen for 20 hours. The mixture is then cooled and treated with 6 g of sodium acetate in 12 ml of water as well as with 12 ml of acetic acid. The mixture is again refluxed for 4 hours. Then, the product is extracted with benzene and the solvent evaporated. The residue is fractionated in vacuo and there is obtained 1-methyl-4-isopropyl-2-(3'-oxobutyl)-cyclohexan-3-one with a boiling point of 88°-90°C.

reactant | p-menthone | C[C@@H]1CC[C@H](C(=O)C1)C(C)C | C10H18O
reactant | methylvinyl ketone | 10 ml | CC(=O)C=C | C4H6O
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
reactant | sodium acetate | 6 g | C(C)(=O)[O-].[Na+]
solvent | water | 12 ml | O | H2O
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 1-methyl-4-isopropyl-2-(3'-oxobutyl)-cyclohexan-3-one | CC1C(C(C(CC1)C(C)C)=O)CCC(C)=O | C14H24O2
